US08835420B2
Preparation x5: tert-Butyl (1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate
Methylmagnesium bromide (187 mL, 262 mmol) was added slowly, with stirring over a period of about 30 minutes, to a chilled solution of 6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile (7.74 g, 32.8 mmol) and THF (500 mL) in an ice bath. The reaction mixture was subsequently removed from the ice bath and stirred at room temperature for 2 hours. The mixture was then cooled in an ice bath and anhydrous MeOH (200 mL) was slowly added to quench excess CH3MgBr. After stirring at room temperature for 30 minutes, sodium borohydride (4.96 g, 131 mmol) was added in one addition and the reaction mixture was stirred for another 30 minutes. Ice/water (200 mL) was added slowly to the mixture, which was stirred at room temperature for 20 minutes. Next, di-tert-butyl dicarbonate (21.47 g, 98 mmol) and N-ethyl-N-isopropylpropan-2-amine (5.89 mL, 32.8 mmol) were added to the solution and the mixture was stirred at room temperature for 2-3 hours. The mixture was diluted with EtOAc (500 mL) and saturated NaHCO3 (1000 mL). The organic layer was separated and the aqueous layer was washed with additional EtOAc (2×500 mL). The combined organic layers were dried over MgSO4 and concentrated. The residue was purified by flash column chromatography (10% EtOAc in hexanes for 40 minutes, followed by 20-40% EtOAc gradient in hexanes over 60 minutes) to give the title compound as a white solid (7.9 g, 68%). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.09-1.42 (m, 12 H), 3.80 (s, 3 H), 5.15 (quin, J=7.08 Hz, 1 H), 6.55 (d, J=2.93 Hz, 1 H), 6.96 (d, J=7.81 Hz, 1 H), 7.65 (d, J=2.93 Hz, 1 H), 8.21 (s, 1 H).

reactant | Methylmagnesium bromide | 262 mmol, 187 mL | C[Mg]Br
reactant | 6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile | 32.8 mmol, 7.74 g | BrC=1C=C2C(=NC1C#N)C=CN2C | C9H6BrN3
reactant | sodium borohydride | 131 mmol, 4.96 g | [BH4-].[Na+]
reactant | di-tert-butyl dicarbonate | 98 mmol, 21.47 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-ethyl-N-isopropylpropan-2-amine | 32.8 mmol, 5.89 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 1000 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | tert-Butyl (1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate | 7.9 g, 68% | BrC=1C=C2C(=NC1C(C)NC(OC(C)(C)C)=O)C=CN2C | C15H20BrN3O2
